### ISSUE TITLE
Unexpected behavior for `try trivial`

### ISSUE THREAD

**Issue by fgdorais** [leanprover/lean4#1127]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
variable (p q : Prop)

example (hp : p) : p := by
  try trivial -- succeeds, as expected

example : p := by
  try trivial -- fails quietly, as expected
  admit

example (hp : p) (hq : q) : p ∧ q := by
  try trivial -- succeeds, as expected

example (hp : p) : p ∧ q := by
  try trivial -- error: tactic 'assumption' failed
  admit       -- goal p is already closed, goal q is open

example (hq : p) : p ∧ q := by
  try trivial -- error: tactic 'assumption' failed
  admit       -- goal p is open, goal q is already closed

example : p ∧ q := by
  try trivial -- error: tactic 'assumption' failed
  admit       -- splits goals p and q 
  admit
```

**Expected behavior:** The last three examples: `try trivial` should fail quietly and leave the goal unchanged.

**Actual behavior:** Described in comments.

### Versions

`Lean (version 4.0.0-nightly-2022-04-27, commit 02d0a8922941, Release)`

### Additional Information

Possibly related to #1119 and #1126

**Comment by leodemoura** [comment]
The commit above fixes this issue.
